US07585886B2
A 655 mg portion of lithium hydroxide was dissolved in 32 ml of water and added to 32 ml of a mixture of 6.4 g of dimethyl 2,2′-(1,4-phenylene)diacetate, 32 ml of THF and 32 ml of methanol. After 2Hours of stirring at room temperature, the reaction solution was neutralized with 1 M hydrochloric acid and extracted with chloroform. The organic layer was dried with anhydrous sodium sulfate and concentrated under a reduced pressure. The residue was purified by a silica gel column chromatography (chloroform-methanol) to obtain 2.6 g of [4-(2-methoxy-2-oxoethyl)phenyl]acetic acid. EN: 207.

reactant | lithium hydroxide | [OH-].[Li+]
reactant | dimethyl 2,2′-(1,4-phenylene)diacetate | 6.4 g | C1(=CC=C(C=C1)CC(=O)OC)CC(=O)OC | C12H14O4
reactant | THF | 32 ml | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | water | 32 ml | O | H2O
solvent | methanol | 32 ml | CO | CH4O
product | [4-(2-methoxy-2-oxoethyl)phenyl]acetic acid | 2.6 g | COC(CC1=CC=C(C=C1)CC(=O)O)=O | C11H12O4
